US07622583B2
To a magnetically stirred solution of 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid (229 mg, 0.50 mmol) in anhydrous methylene chloride (5 mL) was added oxalyl chloride (1.0 mL) at room temperature. The reaction was heated at reflux for 2 h, then concentrated to dryness. The residue was dissolved in methylene chloride (4 mL) and this solution was added dropwise to a magnetically stirred solution of triethylamine (1.0 mL) and N-isopropylaniline (135 mg, 1.00 mmol) in methylene chloride (2 mL). The reaction mixture was stirred 1 h (the reaction was monitored by LCMS), then quenched with saturated aqueous NH4Cl (50 mL), and the aqueous layer extracted with EtOAc (3×75 mL). The combined extracts were washed with 0.5 M HCl (50 mL), washed with water (50 mL), dried (MgSO4), filtered, and concentrated. The residue was purified by chromatography on silica gel using a gradient of ethyl acetate-hexane (0:100 to 100:0) to afford pure 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid N-isopropyl-N-phenylamide. MS m/z 576.0 (M+H); 544.0 (M+H-MeOH).

reactant | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid | 0.50 mmol, 229 mg | ClC=1C=C(C(=NC1)C(=O)O)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H11Cl2F3N2O5S
reactant | oxalyl chloride | 1.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | N-isopropylaniline | 1.00 mmol, 135 mg | C(C)(C)NC1=CC=CC=C1 | C9H13N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid N-isopropyl-N-phenylamide | C(C)(C)N(C(=O)C1=NC=C(C=C1N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C1=CC=CC=C1 | C24H22Cl2F3N3O4S
